US08404719B2
N-(2,6-difluorophenyl)-3-[(8aS)-hexahydropyrrolo[1,2-α]pyrazin-2(1H)-ylcarbonyl]benzenesulfonamide
To 3-(chlorosulfonyl)benzoyl chloride (0.474 g, 1.98 mmol) in anhydrous dichloromethane (10 mL) was added (S)-octahydropyrrolo[1,2-α]pyrazine (0.250 g, 1.98 mmol) in dichloromethane (4 mL) slowly over 10 minutes at room temperature. Then sodium carbonate (0.420 g, 3.96 mmol) was added. The mixture was stirred at room temperature for 5 hours. Then 2,6-difluoroaniline (2.56 g, 19.81 mmol) was added. The mixture was stirred at room temperature overnight and then concentrated. The residue was purified by chromatography on silica gel (dichloromethane, then methanol/dichloromethane=1:10) to give the title compound.

reactant | 3-(chlorosulfonyl)benzoyl chloride | 1.98 mmol, 0.474 g | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
reactant | (S)-octahydropyrrolo[1,2-α]pyrazine | 1.98 mmol, 0.250 g | C1[C@H]2N(CCN1)CCC2 | C7H14N2
reactant | sodium carbonate | 3.96 mmol, 0.420 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,6-difluoroaniline | 19.81 mmol, 2.56 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N-(2,6-difluorophenyl)-3-[(8aS)-hexahydropyrrolo[1,2-α]pyrazin-2(1H)-ylcarbonyl]benzenesulfonamide | FC1=C(C(=CC=C1)F)NS(=O)(=O)C1=CC(=CC=C1)C(=O)N1C[C@H]2N(CC1)CCC2 | C20H21F2N3O3S
